US05578620
3-(7-Phenylheptyloxy)-2-hydroxypropylamine
A procedure similar to that described in Preparation 13 was repeated, except that 1.1 g of 3-(7-phenylheptyloxy)-2-hydroxypropylazide (prepared as described in Preparation 68), 0.287 g of lithium aluminum hydride and 50 ml of anhydrous tetrahydrofuran were used, to give 0.82 g of the title compound having an Rf value of 0.12 (on silica gel thin layer chromatography, using a 5:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine as the developing solvent).

reactant | 3-(7-phenylheptyloxy)-2-hydroxypropylazide | 1.1 g | C1(=CC=CC=C1)CCCCCCCOCC(CN=[N+]=[N-])O | C16H25N3O2
reactant | lithium aluminum hydride | 0.287 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(7-Phenylheptyloxy)-2-hydroxypropylamine | 0.82 g | C1(=CC=CC=C1)CCCCCCCOCC(CN)O | C16H27NO2
